US07968585B2
2-(2,6-Dichloro-4-hydroxy-benzyl)-2-aza-spiro[4.5]decan-1-one
Purge with N2 and H2 a mixture of 2-(4-benzyloxy-2,6-dichloro-benzyl)-2-aza-spiro[4.5]decan-1-one (1.18 g, 2.82 mmol) and 20% palladium (II) hydroxide on carbon (0.50 g) in ethyl acetate (100 mL) and stir under a balloon of H2 for 4 hours at room temperature. Add sodium sulfate to the mixture and filter through hyflo. Remove the solvent in vacuo and purify the crude product on silica isocratically with 9:1 chloroform:methyl t-butyl ether on silica gel to affort 0.72 g (78%) of the titled product. Rf=0.18 (9:1 chloroform:methyl t-butyl ether).

reactant | 2-(4-benzyloxy-2,6-dichloro-benzyl)-2-aza-spiro[4.5]decan-1-one | 2.82 mmol, 1.18 g | C(C1=CC=CC=C1)OC1=CC(=C(CN2C(C3(CC2)CCCCC3)=O)C(=C1)Cl)Cl | C23H25Cl2NO2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium (II) hydroxide | [OH-].[Pd+2].[OH-]
product | 2-(2,6-Dichloro-4-hydroxy-benzyl)-2-aza-spiro[4.5]decan-1-one | ClC1=C(CN2C(C3(CC2)CCCCC3)=O)C(=CC(=C1)O)Cl | C16H19Cl2NO2
